US04539422
B. Preparation of isobutyl cyanoformate
The solution prepared in part A containing ethyl azidoacetate/Aliquat 336/methylene chloride totaling approximately 120 ml. in volume was cooled to approximately -5° C. in a 500 ml. round bottom 3-neck flask. When the solution reached -5° C., 69 grams (0.50 moles) of 99% pure isobutyl chloroformate (Aldrich) was added to the reaction mixture. The mixture was again allowed to cool to -5° C. whereupon 150 grams of crushed ice was next added to the well stirred reaction mixture. While maintaining the temperature of the reaction mixture at -5° C., 26.91 grams (0.55 moles) of sodium cyanide was added. After 30 minutes the phases were separated and the upper aqueous layer was washed twice with 5 ml. portions of methylene chloride and discarded. The methylene chloride extracts and separated organic phase were combined and stirred with silica gel at 0° C. for approximately 30 minutes. The mixture was filtered and the residue washed three times with 10 ml. aliquots of methylene chloride. The filtrate was returned to a 250 ml. round bottom 3-neck flask and distilled to recover approximately 110 ml. of methylene chloride.

reactant | isobutyl chloroformate | 0.50 moles, 69 grams | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium cyanide | 0.55 moles, 26.91 grams | [C-]#N.[Na+]
solvent | ethyl azidoacetate Aliquat 336 methylene chloride | approximately 120 ml | N(=[N+]=[N-])CC(=O)OCC.CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-].C(Cl)Cl
product | isobutyl cyanoformate | C(#N)C(=O)OCC(C)C | C6H9NO2
